US08304419B2
Step A: 4-bromo-2-methyl-1H-imidazole-5-carbaldehyde
N-bromosuccinimide (0.900 g, 5.0 mmol) was added to a stirred solution of 2-methyl-1H-imidazole-4-carbaldehyde (0.500 g, 5.0 mmol) in CH3CN (50 mL). The reaction mixture was stirred for 3 days in the dark and then concentrated in the presence of silica gel. The absorbed crude material was purified by column chromatography (5-70% EtOAc/hexanes) to afford the title compound (0.334 g, 35%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 13.34 (br. s., 1H), 9.48 (s, 1H), 2.31 (s, 3H). ES-LCMS: m/z 189.2, 191.2 (M+1).

reactant | N-bromosuccinimide | 5.0 mmol, 0.900 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-methyl-1H-imidazole-4-carbaldehyde | 5.0 mmol, 0.500 g | CC=1NC=C(N1)C=O | C5H6N2O
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | 4-bromo-2-methyl-1H-imidazole-5-carbaldehyde | 0.334 g, 35% | BrC=1N=C(NC1C=O)C | C5H5BrN2O
